US07351836B2
4-Amino-N-tert-butylbenzenesulfonamide
A solution of 4-acetylamino-N-tert-butylbenzenesulfonamide (8.0 g, 29.6 mmol), KOH (8.30 g, 148 mmol), H2O (6 mL) and MeOH (24 mL) is heated at 100° C. for 2 h. H2O (24 mL) is added and the mixture is heated for two more hours. It is allowed to cool, H2O is added and it is brought to pH 8 with 1N HCl. It is then extracted with EtOAc, dried over Na2SO4 and the solvent is removed, to give 6.0 g of the product as a white solid (yield: 89%).

reactant | 4-acetylamino-N-tert-butylbenzenesulfonamide | 29.6 mmol, 8.0 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NC(C)(C)C | C12H18N2O3S
reactant | KOH | 148 mmol, 8.30 g | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | H2O | O | H2O
solvent | H2O | 24 mL | O | H2O
solvent | MeOH | 24 mL | CO | CH4O
solvent | H2O | 6 mL | O | H2O
product | 4-Amino-N-tert-butylbenzenesulfonamide | 6.0 g, yield: 89% | NC1=CC=C(C=C1)S(=O)(=O)NC(C)(C)C | C10H16N2O2S
